Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.73943333335
[H:1][O:2][C:3]([H:4])=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.72630685288
[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],5.53971656194
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6],3.01173821238
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],1.62334401414
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],4.2975135722900015
[H:1][O:2][C:3]#[C:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.62615348621
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][C:11][H:12],4.101671104119999
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9].[H:10]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-5.0303612706
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.71859967329
[H:1][O:2]/[C:3]([H:4])=[C:9](/[C:6]([O:5])([H:7])[H:8])[H:10]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[H:10],-0.0784196279601
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-7.27048533
[H:1].[O:2]=[C:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.62545766206
[C:6](=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-2.00136829757
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.60309577531
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.90911369125
[H:10].[O:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.0007229445
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[O:11][H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.02978896419
[H:1][C:2]1[C:3]2[O:4][C@:5]12[H:6]>>[H:1][C:2]#[C:3][O:4][C:5][H:6],1.1282297842
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][H:6]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-6.13991812601
[C:3]([H:4])([H:5])[O:6][H:7].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][H:7],-5.27996505422
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][H:3].[C:4]([C:5]#[C:6][H:7])[O:8][H:9],3.44471518121
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],4.76880941872
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][H:10],2.22861324383
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:8][C:9]([H:10])[H:11].[H:7],4.35894445856
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-0.8403936982889999
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8]>>[C:4]#[C:5][O:6][C:7][H:8].[O:1]=[C:2][H:3],5.01943596113
[C:1][C:2]#[C:3][C:5]([H:6])=[C:7]([H:8])[H:9].[H:4]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-3.9376682983699993
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.87387884735
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-8.38035110131
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],3.39901468816
